US05183587
(vi) Preparation of trans-1-(E-2-fluoro-1-ethenyl)-4-(4-formylphenyl)cyclohexane
Trans-1-(E-2-fluoro-1-ethenyl)-4-{4-(1,3-dioxan-2-yl)phenyl}cyclohexane (34 g, 0.12 mol), tetrahydrofurane (130 ml) and 3N-hydrochloric acid (130 ml) were heated under reflux with stirring for 5 hours, followed by cooling the reaction mixture, adding toluene (200 ml) and water (200 ml) to the mixture, washing the resulting toluene solution with water, drying over anhydrous magnesium sulfate and distilling off toluene to obtain the objective substance (25 g, 0.11 mol; E:Z=5:1).

reactant | Trans-1-(E-2-fluoro-1-ethenyl)-4-{4-(1,3-dioxan-2-yl)phenyl}cyclohexane | 0.12 mol, 34 g | F/C=C/[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1OCCCO1 | C18H23FO2
reactant | tetrahydrofurane | 130 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 130 ml | Cl | ClH
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 ml | O | H2O
product | trans-1-(E-2-fluoro-1-ethenyl)-4-(4-formylphenyl)cyclohexane | F/C=C/[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C=O | C15H17FO
